US07981903B2
Using General Protocol II with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (3.00 g, 8.8 mmol) and 2-amino-6-(methyloxy)benzamide (3.10 g, 18.7 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-(methyloxy)benzamide was isolated as white solid (1.15 g, 28% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (s, 3 H), 3.81 (s, 3 H), 6.55 (s, 1 H), 6.94 (d, J=7.87 Hz, 1 H), 7.37-7.49 (m, 4 H), 7.63 (d, J=4.03 Hz, 3 H), 7.94 (d, J=8.24 Hz, 2 H), 10.98 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 8.8 mmol, 3.00 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-6-(methyloxy)benzamide | 18.7 mmol, 3.10 g | NC1=C(C(=O)N)C(=CC=C1)OC | C8H10N2O2
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-(methyloxy)benzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)OC | C21H18ClN5O4S
